US05328911
(2) 7-Methyl-2-methylthio-3H-imidazo[4,5-b]pyridine
130 mg of sodium hydride was dropwise added at room temperature to a solution of 500 mg of 2-mercapto-7-methyl-3H-imidazo[4,5-b]pyridine in dimethylformamide. The mixture was stirred for 10 min, and 0.21 ml of iodomethane was added thereto, followed by reaction for 30 min. Water was added to the reaction mixture, and the mixture was extracted with ethyl acetate. The extract was dried over magnesium sulfate, and the solvent was distilled off in vacuo. The resultant solid was washed with a small amount of ethyl acetate to prepare 210 mg of 7-methyl-2-methylthio-3H-imidazo[4,5-b]pyridine as a mud yellow solid.

reactant | sodium hydride | 130 mg | [H-].[Na+]
reactant | 2-mercapto-7-methyl-3H-imidazo[4,5-b]pyridine | 500 mg | SC1=NC=2C(=NC=CC2C)N1 | C7H7N3S
reactant | iodomethane | 0.21 ml | IC | CH3I
reactant | Water | O | H2O
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 7-Methyl-2-methylthio-3H-imidazo[4,5-b]pyridine | CC1=C2C(=NC=C1)NC(=N2)SC | C8H9N3S
